US06924384B2
30.80 g (0.155 mol) ClSi(OEt)3 in Et2O is slowly added to solution of CF2═CF—Li (0.155 mol 13.633 g, prepared in situ) in Et2O at −78° C. Reaction mixture is stirred overnight while it will slowly warm to room temperature. LiCl is removed by filtration and the product, trifluorovinyltriethoxysilane, is isolated by distillation.

reactant | ClSi(OEt)3 | 0.155 mol, 30.80 g | Cl[Si](OCC)(OCC)OCC | C6H15ClO3Si
reactant | CF2═CF—Li | 0.155 mol, 13.633 g | C(F)(F)=C(F)[Li]
solvent | Et2O | CCOCC | C4H10O
product | trifluorovinyltriethoxysilane | FC(=C(F)F)[Si](OCC)(OCC)OCC | C8H15F3O3Si
